US06642229B2
1-(3′-Bromobiphenyl-2-yl)-1H-[1,2,4]triazole (91 mg, 0.30 mmol) was coupled to 3-tributylstannyl-7-trifluoromethylimidazo[1,2-a]pyrimidine (0.25 mmol) by the method of Example 32. The product was obtained by preparative thin-layer chromatography on silica gel with 3% methanol in dichloromethane as eluent followed by high performance liquid chromatography to give 3-[2′-([1,2,4]triazol-1-yl)biphenyl-3-yl]-7-trifluoromethylimidazo[1,2-a]pyrimidine as a yellow solid: δH (400 MHz, CDCl3) 8.57 (1H, d, J 7), 7.95-8.11 (3H, m), 7.48-7.66 (7H, m), 7.35 (1H, J 8), 7.27 (1H, m); m/z (ES+) 407 (M++H).

reactant | 1-(3′-Bromobiphenyl-2-yl)-1H-[1,2,4]triazole | 0.30 mmol, 91 mg | BrC=1C=C(C=CC1)C1=C(C=CC=C1)N1N=CN=C1 | C14H10BrN3
reactant | 3-tributylstannyl-7-trifluoromethylimidazo[1,2-a]pyrimidine | 0.25 mmol | C(CCC)[Sn](C1=CN=C2N1C=CC(=N2)C(F)(F)F)(CCCC)CCCC
solvent | methanol | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-[2′-([1,2,4]triazol-1-yl)biphenyl-3-yl]-7-trifluoromethylimidazo[1,2-a]pyrimidine | N1(N=CN=C1)C1=C(C=CC=C1)C1=CC(=CC=C1)C1=CN=C2N1C=CC(=N2)C(F)(F)F | C21H13F3N6
